US07846925B2
Step I: Quinoxaline-6-carbaldehyde
In a 1 l 3-neck flask under argon was placed Quinoxaline-6-carbonyl chloride in 600 ml of DME. To this solution was added lithium tri-tert-butoxyaluminohydride (1 eq.) at −78° C. over 1.5 h. The reaction was kept at that temperature for 5 h. Then ice was added, and the reaction was diluted with AcOEt and filtrated over celite. The two layers were separated and the organic phase was washed with NaHCO3 sat. Quinoxaline-6-carbaldehyde was obtained upon evaporating the solvent in 73% yield as yellowish solid.

reactant | Quinoxaline-6-carbonyl chloride | N1=CC=NC2=CC(=CC=C12)C(=O)Cl | C9H5ClN2O
reactant | lithium tri-tert-butoxyaluminohydride | 1 eq. | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | DME | 600 ml | COCCOC | C4H10O2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | Quinoxaline-6-carbaldehyde | 73% yield | N1=CC=NC2=CC(=CC=C12)C=O | C9H6N2O
